US08703682B2
PDA2: N,N′-di-(1,3-dimethylbutyl)-N,N′-di-(2-ethylhexyl)-p-phenylenediamine
N,N′-di-(1,3-dimethylbutyl)-p-phenylenediamine (17 g, 61.5 mmol) and 2-ethylhexanal (18.53 g, 144.5 mmol) were dissolved in dichloromethane (500 mL) and were stirred together in a 1 liter round bottomed flask fitted with a condenser and magnetic stirring at room temperature whilst sodium triacetoxyhydroborate (30.63 g, 144.5 mmol) was added portionwise over 1 hour. The mixture was left standing for a total of 18 hours. The crude product was stirred with 150 ml water for a few minutes followed by addition of aqueous sodium carbonate solution (60 g in 250 ml water) in portions. Most of the effervescence subsided after 50% of this had been added. The mixture was stirred with a further 100 ml water and separated using a separating funnel. The organic phase was washed with water (500 ml+750 ml) and brine (500 ml). It was then dried with magnesium sulphate, filtered through celite 521 and evaporated to leave a dark brown oil. The product was chromatographed (eluent 5% EtOAc in heptane). Relevent fractions were combined and concentrated to afford the product as a dark oil (28.6 g, 93% yield).

reactant | N,N′-di-(1,3-dimethylbutyl)-p-phenylenediamine | 61.5 mmol, 17 g | CC(CC(C)C)NC1=CC=C(C=C1)NC(CC(C)C)C | C18H32N2
reactant | 2-ethylhexanal | 144.5 mmol, 18.53 g | C(C)C(C=O)CCCC | C8H16O
reactant | sodium | [Na] | Na
reactant | sodium carbonate | 250 ml, 60 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | N,N′-di-(1,3-dimethylbutyl)-N,N′-di-(2-ethylhexyl)-p-phenylenediamine | 28.6 g, 93% yield | CC(CC(C)C)N(C1=CC=C(C=C1)N(CC(CCCC)CC)C(CC(C)C)C)CC(CCCC)CC | C34H64N2
